US09145380B2
c) (E)-N,N-Diallyl-4-(2-(4-bromophenyl)vinylsulfonamido)pyridine-3-sulfonamide
Triethylamine (0.440 mL, 3.16 mmol) added was to a solution of N,N-diallyl-4-aminopyridine-3-sulfonamide (0.40 g, 1.58 mmol) in pyridine (10 mL), the mixture was stirred for 5 min and (E)-2-(4-bromophenyl)ethenesulfonyl chloride (0.53 g, 1.89 mmol) was added. After stirring over night the pyridine was evaporated, diluted hydrochloric acid was added and the mixture was extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and the solvent was evaporated. Purification by column chromatography, using chloroform/methanol (97:3) as the eluent, gave the title compound in 60% yield.

reactant | Triethylamine | 3.16 mmol, 0.440 mL | C(C)N(CC)CC | C6H15N
reactant | N,N-diallyl-4-aminopyridine-3-sulfonamide | 1.58 mmol, 0.40 g | C(C=C)N(S(=O)(=O)C=1C=NC=CC1N)CC=C | C11H15N3O2S
reactant | (E)-2-(4-bromophenyl)ethenesulfonyl chloride | 1.89 mmol, 0.53 g | BrC1=CC=C(C=C1)/C=C/S(=O)(=O)Cl | C8H6BrClO2S
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | (E)-N,N-Diallyl-4-(2-(4-bromophenyl)vinylsulfonamido)pyridine-3-sulfonamide | 60% yield | C(C=C)N(S(=O)(=O)C=1C=NC=CC1NS(=O)(=O)\C=C\C1=CC=C(C=C1)Br)CC=C | C19H20BrN3O4S2
